US04064258
0.0952 Mole of lithium aluminum hydride is dissolved in 200 ml. of anhydrous diethyl ether, under nitrogen, and cooled to 0° C. 0.0952 Mole of 4-methylbicyclo[2.2.2]oct-1-yl carboxylic acid in 100 ml. of tetrahydrofuran is added dropwise, then the mixture stirred for 30 minutes. Excess lithium aluminum hydride is decomposed by the cautious addition of ethyl acetate, followed by the careful addition of 10 ml. of water. The mixture is then filtered and the filtrate washed with ethyl ether, then dried over anhydrous magnesium sulfate and filtered. The solvent is then evaporated from the filtrate, under vacuum, affording 1-(hydroxymethyl)-4-methylbicyclo[2.2.2]octane.

reactant | lithium aluminum hydride | 0.0952 Mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 4-methylbicyclo[2.2.2]oct-1-yl carboxylic acid | 0.0952 Mole | CC12CCC(CC1)(CC2)C(=O)O | C10H16O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(hydroxymethyl)-4-methylbicyclo[2.2.2]octane | OCC12CCC(CC1)(CC2)C | C10H18O
